US06333323B1
To a suspension of 9.5 g (72 mmol) of aluminum chloride in dichloroethane (47.5 ml) was added dropwise 3.64 g (36 mmol) of acetic anhydride. After stirring for 15 min at room temperature, to the above mixture was added dropwise 3.3 g (11 mmol) of 6-chloroacetoxy-1-pivaloylindole (prepared in accordance with the literature (SYNTHESIS, p1018, 1994) in dichloroethane (33 ml). After stirring for 1 hour at room temperature, the mixture was poured into ice-water. The mixture was extracted with ethyl acetate. The extract was washed twice with water and aqueous sodium bicarbonate, and dried. The solution was concentrated and the obtained residue was chromatographed on silica gel (ethyl acetate as eluant) to give 1.23 g of 3-acetyl-6-chloroacetoxy-1-pivaloylindole as an oil. Yield: 36%.

reactant | aluminum chloride | 72 mmol, 9.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetic anhydride | 36 mmol, 3.64 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-chloroacetoxy-1-pivaloylindole | 11 mmol, 3.3 g | ClCC(=O)OC1=CC=C2C=CN(C2=C1)C(C(C)(C)C)=O | C15H16ClNO3
solvent | dichloroethane | 47.5 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 33 ml | ClC(C)Cl | C2H4Cl2
product | 3-acetyl-6-chloroacetoxy-1-pivaloylindole | 1.23 g, Yield: 36% | C(C)(=O)C1=CN(C2=CC(=CC=C12)OC(CCl)=O)C(C(C)(C)C)=O | C17H18ClNO4
